US09079866B2
5-{2′-[(1,1-Dioxidothiomorpholin-4-yl)carbonyl]-3-fluorobiphenyl-4-yl}pyrazin-2-amine
The title compound was prepared using methods analogous to those described in Step C of Example 504 using 4′-(2-aminopyrazin-5-yl)-3′-fluoro-[1,1′-biphenyl]-2-carboxylic acid and thiomorpholine 1,1-dioxide. MS (ESI): mass calcd. for C21H19FN4O3S, 426.12; m/z found, 427.0 [M+H]+. 1H NMR (400 MHz, CDCl3) δ 8.60 (s, 1H), 8.11 (s, 1H), 8.11-8.02 (m, 1H), 7.58-7.47 (m, 3H), 7.43 (d, J=7.5, 1H), 7.37 (dd, J=8.1, 1.8, 1H), 7.32 (dd, J=12.1, 1.7, 1H), 4.74 (s, 2H), 4.23 (s, 1H), 4.05 (s, 1H), 3.57-3.48 (m, 1H), 3.38 (s, 1H), 3.01 (s, 1H), 2.85 (s, 1H), 2.62 (s, 1H), 2.05 (s, 1H).

reactant | 4′-(2-aminopyrazin-5-yl)-3′-fluoro-[1,1′-biphenyl]-2-carboxylic acid | NC1=NC=C(N=C1)C1=C(C=C(C=C1)C=1C(=CC=CC1)C(=O)O)F | C17H12FN3O2
reactant | thiomorpholine 1,1-dioxide | N1CCS(CC1)(=O)=O | C4H9NO2S
product | 5-{2′-[(1,1-Dioxidothiomorpholin-4-yl)carbonyl]-3-fluorobiphenyl-4-yl}pyrazin-2-amine | O=S1(CCN(CC1)C(=O)C1=C(C=CC=C1)C1=CC(=C(C=C1)C=1N=CC(=NC1)N)F)=O | C21H19FN4O3S
